US08022062B2
7-Chloro-6-(4-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and methyl 4-(bromomethyl)benzoate to give, after deprotection by the General Procedure 14, the title compound as a white solid. MS (ES+) m/z: 362 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
product | 7-Chloro-6-(4-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)C(=O)OC | InChI=1S/C19H20ClNO2S.ClH/c1-23-19(22)15-4-2-13(3-5-15)12-24-18-16-9-11-21-10-8-14(16)6-7-17(18)20;/h2-7,21H,8-12H2,1H3;1H
